US07598423B2
Synthesis of 3-[[4-(3-hydroxy-2-methyl-4-propionyl-phenoxymethyl)-phenyl]-(tetrahydro-pyran-2-yloxy)-methyl]-benzoic acid
The title compound is prepared essentially as described in Preparation 113 employing 3-[[4-(3-hydroxy-2-methyl-4-propionyl-phenoxymethyl)-phenyl]-(tetrahydro-pyran-2-yloxy)-methyl]-benzonitrile (5.00 g, 10.3 mmol) and potassium hydroxide (11.6 g, 206 mmol) in ethanol (100 mL) and water (25 mL) at reflux for 3 days. Concentrate the reaction mixture and acidify with 1N hydrochloric acid, then extract with dichloromethane (3×). Combine organic layers, dry (sodium sulfatesodium sulfate) and evaporate to afford the title compound as a white solid (2.11 g, 4.18 mmol, 40%): MS (m/z): 503 (M−H).

reactant | 3-[[4-(3-hydroxy-2-methyl-4-propionyl-phenoxymethyl)-phenyl]-(tetrahydro-pyran-2-yloxy)-methyl]-benzonitrile | 10.3 mmol, 5.00 g | OC=1C(=C(OCC2=CC=C(C=C2)C(C=2C=C(C#N)C=CC2)OC2OCCCC2)C=CC1C(CC)=O)C | C30H31NO5
reactant | potassium hydroxide | 206 mmol, 11.6 g | [OH-].[K+]
reactant | water | 25 mL | O | H2O
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 3-[[4-(3-hydroxy-2-methyl-4-propionyl-phenoxymethyl)-phenyl]-(tetrahydro-pyran-2-yloxy)-methyl]-benzoic acid | 4.18 mmol, 2.11 g, 40% | OC=1C(=C(OCC2=CC=C(C=C2)C(C=2C=C(C(=O)O)C=CC2)OC2OCCCC2)C=CC1C(CC)=O)C | C30H32O7
